* C:\Users\kevin\Documents\ESE5800\HW2\HW2q2c.asc
V1 N001 0 SINE(0 170 {f})
V2 0 N003 SINE(0 170 {f})
L1 N001 N002 {Lc}
L2 N003 N004 {Lc}
D1 N002 vd D
D2 N004 vd D
I1 vd 0 {Iload}
.model D D
.lib C:\Users\kevin\AppData\Local\LTspice\lib\cmp\standard.dio
.step param Iload 0 10 1
.meas TRAN avg_vd AVG V(vd)
.ic I(L2)=0
.tran {1/f}
.param Lc=90m
.param f=60
.backanno
.end
